US07268232B2
4-((R)-2-Phenylaminomethylpyrrolidin-1-yl)naphthalene-1-carbonitrile (196MBT2-2)
The title compound (7 mg, 18% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and (R)-(−)-2-phenylaminomethylpyrrolidine (82 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | (R)-(−)-2-phenylaminomethylpyrrolidine | 0.468 mmol, 82 mg | C1(=CC=CC=C1)NC[C@@H]1NCCC1 | C11H16N2
product | 4-((R)-2-Phenylaminomethylpyrrolidin-1-yl)naphthalene-1-carbonitrile | 7 mg, 18% yield | C1(=CC=CC=C1)NC[C@@H]1N(CCC1)C1=CC=C(C2=CC=CC=C12)C#N | C22H21N3
